US04431653
The dihydrochloride salt of 4-[2-(4,5,6,7-tetrahydro-1H-1,3-diazepin-2-yl)ethyl]piperidine (1.6 g, 5.8 mM) in methanol (12 ml) which contained MeONa (12 mM) and dimethylformamide dimethyl acetal (20 ml) was heated at 90° C. for 8 hrs. The excess of dimethylformamide dimethylacetal was removed in vacuo to give the 4-[2-(4,5,6,7-tetrahydro-1H-1,3-diazepin-2-yl)ethyl] 1-piperidinecarboxaldehyde dimethylacetal. To the mixture of 6-aminopenicillanic acid (1.1 g, 5 mM) and diisopropylethylamine (0.96 ml) in 20 ml dry CHCl3 was added the solution (CHCl3 8 ml: MeOH 1 ml) of the above piperidine-carboxaldehyde dimethylacetal at 0° C. The reaction was stirred at 0° C. for 1 hr and then at room temperature for 3 hrs. The solvent was then removed, and water added (30 ml). The aqueous solution, washed with ethylacetate, was acidified to pH 3 with dilute aqueous HCl and purified on Sephadex LH 20 column to yield [2S-(2alpha,5alpha,6beta)]-6-[[[4-[2-(4,5,6,7-tetrahydro-1H-1,3-diazepin-2-yl)ethyl]-1-piperidinyl]methylene]amino]-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid hydrochloride (0.85 g, 38% yield)

reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | 4-[2-(4,5,6,7-tetrahydro-1H-1,3-diazepin-2-yl)ethyl]piperidine | 5.8 mM, 1.6 g | N1C(=NCCCC1)CCC1CCNCC1 | C12H23N3
reactant | MeONa | 12 mM | CO[Na]
reactant | dimethylformamide dimethyl acetal | 20 ml | COC(N(C)C)OC | C5H13NO2
solvent | methanol | 12 ml | CO | CH4O
product | 4-[2-(4,5,6,7-tetrahydro-1H-1,3-diazepin-2-yl)ethyl] 1-piperidinecarboxaldehyde dimethylacetal | COC(N1CCC(CC1)CCC=1NCCCCN1)OC | C15H29N3O2
